US06461578B1
Synthesis of 1-phenylcyclopentanecarbonyl chloride
The carboxylic acid chlorides used in the synthesis of the parent amides were all synthesized as described below. In a 1-liter 3-neck flask, 200 gm (1.05 mole) of 1-phenylcyclopentanecarboxylic acid (ACROS ORGANICS) was added drop-wise to stirring excess of thionyl chloride (Aldrich) under nitrogen. The resulting mixture was heated at reflux for two hrs. The reaction was further stirred at room temperature overnight. The resulting brown-red solution was concentrated at reduced pressure and heat on a rotary evaporator to remove excess thionyl chloride. The reaction yielded 216 gm in of a lachrymator substance whose 1H-NMR and 13C-NMR spectra were ideal for the desired acid chloride.

reactant | 1-phenylcyclopentanecarboxylic acid | 1.05 mole, 200 gm | C1(=CC=CC=C1)C1(CCCC1)C(=O)O | C12H14O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-phenylcyclopentanecarbonyl chloride | C1(=CC=CC=C1)C1(CCCC1)C(=O)Cl | C12H13ClO
